US07151109B2
Preparation of pyrazolo[1,5-a]pyridin-3-amine
To a mixture of 3-nitropyrazolo[1,5-a]pyridine (2.35 g, 14.4 mmol) and zinc (28.2 g, 432 mmol) in 78% ethanol (75.0 mL) was added a solution of calcium chloride (0.8 g, 7.2 mmol) in a minimum amount of water. The resulting mixture was refluxed for 2 h and filtered in hot and washed with hot ethanol. The filtrate was concentrated in vacuo to dryness and the residue was subjected to column chromatography (EtOAc) to give an orangish solid as the desired product (1.48 g, 77%): 1H NMR (400 MHz, CDCl3) δ 8.31 (d, J=7.0 Hz, 1H), 7.69 (s, 1H), 7.44 (d, J=9.0 Hz, 1H), 7.01–6.96 (m, 1H), 6.68–6.64 (m, 1H), 2.90 (br, 2H); MS (EI) m/z 134 (M++H).

reactant | 3-nitropyrazolo[1,5-a]pyridine | 14.4 mmol, 2.35 g | [N+](=O)([O-])C=1C=NN2C1C=CC=C2 | C7H5N3O2
reactant | calcium chloride | 7.2 mmol, 0.8 g | [Cl-].[Ca+2].[Cl-]
reactant | water | O | H2O
solvent | ethanol | 75.0 mL | C(C)O | C2H6O
catalyst | zinc | 432 mmol, 28.2 g | [Zn] | Zn
product | pyrazolo[1,5-a]pyridin-3-amine | 1.48 g, 77% | N1=CC(=C2N1C=CC=C2)N | C7H7N3
